US06251917B1
a) 2-Bromo-4-nitro-benzoic acid
75 g (0.35 mol) of 2-bromo-4-nitrotoluene, 12 ml of aliquot 336 and 39 g (0.47 mol) of sodium hydrogen sulfate in 1.5 l of water were heated to 80° C. The mixture was stirred well and 183 g (1.16 mol) of potassium permanganate were then added a little at a time. The mixture was then heated under reflux for 45 min. The mixture was filtered through CELITE and the filtrate was concentrated to about 700 ml under reduced pressure. The aqueous solution was acidified with concentrated hydrochloric acid, whereupon the product precipitated. 45 g (53%) of the product were obtained.

reactant | 2-bromo-4-nitrotoluene | 0.35 mol, 75 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | sodium hydrogen sulfate | 0.47 mol, 39 g | S(=O)(=O)(O)[O-].[Na+]
reactant | potassium permanganate | 1.16 mol, 183 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 1.5 l | O | H2O
product | 2-Bromo-4-nitro-benzoic acid | 45 g, 53% | BrC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4BrNO4
